US06335459B1
{2-Chloro-3-[(diphenylcarbamoyloxy)methyl]phenoxy}acetic acid methyl ester (0.64 g, 1.5 mmol) was dissolved in a mixture of methanol (20 mL), water (5 mL), and tetrahydrofuran (2 mL). An aqueous solution of lithium hydroxide (0.07 g, 1.65 mmol) was added and the mixture was allowed to stir overnight. The mixture was concentrated in vacuo, and the residue diluted with water and washed with diethyl ether. The aqueous layer was acidified with 3M hydrochloric acid forming a white precipitate which was filtered and dried. Recrystallization from methanol gave {2-chloro-3-[(diphenylcarbamoyloxy)methyl]phenoxy}acetic acid as white needles (0.47 g, 76.5%); m.p. 182.2-182.9° C.; 1H NMR 4.66 (s, 2H), 5.30 (s, 2H), 6.83 (dt, J=7.5Hz, 2H), 7.11 (t, J=8.0Hz), 7.28 (m, 10H); 13C NMR 64.98 (t), 66.02 (t), 112.96 (d), 121.62 (d), 126.27 (d), 126.93 (d), 127.02 (d), 128.94 (d), 135.79 (s), 142.34 (s), 153.68 (s), 154.27 (s), 170.26 (s). Analysis for C22H18ClNO5: Calcd.: C, 64.16; H, 4.41; N, 3.40. Found: C, 64.30; H, 4.39; N, 3.56.

reactant | {2-Chloro-3-[(diphenylcarbamoyloxy)methyl]phenoxy}acetic acid methyl ester | 1.5 mmol, 0.64 g | COC(COC1=C(C(=CC=C1)COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)Cl)=O | C23H20ClNO5
reactant | lithium hydroxide | 1.65 mmol, 0.07 g | [OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | {2-chloro-3-[(diphenylcarbamoyloxy)methyl]phenoxy}acetic acid | 0.47 g, 76.5% | ClC1=C(OCC(=O)O)C=CC=C1COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H18ClNO5
